US07666868B2
12. (E)-N-Hydroxy-3-(1-[3-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl)-acrylamide
A mixture of 0.086 g (E)-3-{1-[3-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide with 3.0 ml methanol and 7.0 ml 1M aqueous HCl is stirred at ambient temperature for 24 h. The suspension is partly evaporated and the residual mixture is centrifuged. The product is washed with water and diisopropylether and dried in vacuo. By this method 0.045 g of a light pink powder are obtained. Melting point: 155-160° C., sinter is beginning from 85° C.

reactant | (E)-3-{1-[3-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl}-N-(tetrahydro-pyran-2-yloxy)-acrylamide | 0.086 g | CN1N=CC(=C1)C=1C=C(C=CC1)S(=O)(=O)N1C=C(C=C1)/C=C/C(=O)NOC1OCCCC1 | C22H24N4O5S
reactant | HCl | 1M, 7.0 ml | Cl | ClH
solvent | methanol | 3.0 ml | CO | CH4O
product | (E)-N-Hydroxy-3-(1-[3-(1-methyl-1H-pyrazol-4-yl)-benzenesulfonyl]-1H-pyrrol-3-yl)-acrylamide | 0.045 g | ONC(\C=C\C1=CN(C=C1)S(=O)(=O)C1=CC(=CC=C1)C=1C=NN(C1)C)=O | C17H16N4O4S
